US07981903B2
A suspension of 5-(methyloxy)-1-(1-methyl-L-prolyl)-6-nitro-2,3-dihydro-1H-indole (2.50 g, 8.19 mmol) in methanol (100 mL)/tetrahydrofuran (100 mL) was warmed to 65° C. and maintained until all solids had dissolved. The solution was cooled, purged with nitrogen for 40 minutes, and 10% palladium on carbon (1.1 g, 8.19 mmol) was added and the suspension was maintained under 40 psi of H2 gas with rapid stirring for 24 hours. The solution was carefully purged with nitrogen, filtered through a pad of celite, and all solvents removed under reduced pressure to afford 5-(methyloxy)-1-(1-methyl-L-prolyl)-2,3-dihydro-1H-indol-6-amine (2.23 g, 99% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.57 (s, 1 H), 6.70 (s, 1 H), 4.76 (s, 2 H), 4.06-4.17 (m, 1 H), 3.93-4.06 (m, 1 H), 3.70 (s, 3 H), 3.46 (s, 1 H), 3.06-3.18 (m, 1 H), 2.98 (t, J=8.25 Hz, 2 H), 2.41-2.47 (m, 1 H), 2.37 (s, 3 H), 2.12-2.29 (m, 1 H), 1.66-1.92 (m, 3 H).

reactant | 5-(methyloxy)-1-(1-methyl-L-prolyl)-6-nitro-2,3-dihydro-1H-indole | 8.19 mmol, 2.50 g | COC=1C=C2CCN(C2=CC1[N+](=O)[O-])C([C@H]1N(CCC1)C)=O | C15H19N3O4
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 8.19 mmol, 1.1 g | [Pd] | Pd
product | 5-(methyloxy)-1-(1-methyl-L-prolyl)-2,3-dihydro-1H-indol-6-amine | 2.23 g, 99% yield | COC=1C=C2CCN(C2=CC1N)C([C@H]1N(CCC1)C)=O | C15H21N3O2
